US08471027B2
A mixture of 1-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-ethanone (4.28 g, 15.3 mmol) in methanol (60.4 mL) at 25° C. was treated with methyl 4-formylbenzoate (3.01 g, 18.3 mmol) and sodium methoxide in methanol (25% wt, 6.99 mL, 30.5 mmol). The reaction was stirred at 25° C. for 2 d. At this time, the reaction was diluted with water (50 mL), neutralized with a 2N aqueous hydrochloric acid solution, and extracted with methylene chloride (3×75 mL). The combined organics were dried over sodium sulfate and filtered. Silica gel was added to the filtrate, concentrated in vacuo and dried under high vacuum. Flash chromatography (40 g silica column, 10-100% ethyl acetate/hexanes) afforded 4-[(E)-3-oxo-3-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-propenyl]-benzoic acid methyl ester (4.04 g, 62%) as an orange solid.

reactant | 1-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-ethanone | 15.3 mmol, 4.28 g | C1(=CC=CC=C1)NC1=NC(=CC=C1C(C)=O)C(F)(F)F | C14H11F3N2O
reactant | methyl 4-formylbenzoate | 18.3 mmol, 3.01 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 60.4 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 4-[(E)-3-oxo-3-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-propenyl]-benzoic acid methyl ester | 4.04 g, 62% | COC(C1=CC=C(C=C1)\C=C\C(C=1C(=NC(=CC1)C(F)(F)F)NC1=CC=CC=C1)=O)=O | C23H17F3N2O3
